US04017492
In the manner given in Example 14, 2-[[1-carboxy-3-(dimethylamino)propylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine can be treated with ethereal diazomethane to give 2-[[1-(methoxycarbonyl)-3-(dimethylamino)-propylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine.

reactant | 2-[[1-carboxy-3-(dimethylamino)propylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine | C(=O)(O)C(CCN(C)C)=NNC1=NC2=C(C(=NC1)C1=CC=CC=C1)C=CC=C2 | C21H23N5O2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
product | 2-[[1-(methoxycarbonyl)-3-(dimethylamino)-propylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine | COC(=O)C(CCN(C)C)=NNC1=NC2=C(C(=NC1)C1=CC=CC=C1)C=CC=C2 | C22H25N5O2
